US08445538B2
Step B: Ethyl N-(4-{(1S)-1-[(4-chlorophenyl)(5-cyano-7-methyl-1-naphthyl)methyl]butyl}benzoyl)-β-alaninate
To a solution of ethyl N-(4-{(1S)-1-[(4-chlorophenyl)(5-bromo-7-methyl-1-naphthyl)methyl]butyl}benzoyl)-β-alaninate (40 mg, 0.064 mmol) in DMF (3 mL) was added zinc cyanide (8.3 mg, 0.071 mmol) and Pd(Ph3P)4 (22.3 mg, 0.019 mmol). The resulting reaction mixture was stirred at 110° C. for 24 hours, then concentrated. The resulting residue was purified by preparative TLC eluting with 40% EtOAc/hexanes afforded a 9:1 mixture of naphthyl regioisomers. The residue was purified by preparative HPLC (Chiralcel OD column) eluting with 5% EtOH/heptane to afford the major diastereomer of the title compound. 1H NMR (500 MHz, CDCl3): δ 8.14 (s, 1H); 7.90 (d, J=8.5 Hz, 1H); 7.65 (d, J=7.5 Hz, 1H); 7.63 (s, 1H); 7.48 (d, J=8.5 Hz, 2H); 7.42 (m, 1H); 7.36 (d, J=8.5 Hz, 2H); 7.26 (d, J=8.0 Hz, 2H); 7.20 (d, J=8.5 Hz, 2H); 6.66 (m, 1H); 5.00 (d, J=11.5 Hz, 1H); 4.13 (q, J=7.2 Hz, 2H); 3.62 (q, J=11.8 Hz, 2H); 3.56 (m, 1H); 2.54 (q, 14.5 Hz, 2H); 2.54 (s, 3H); 1.62-1.51 (m, 2H); 1.25 (t, J=7.3 Hz, 3H), 1.06-1.00 (m, 2H); 0.74 (t, J=7.2 Hz, 3H). LC3 4.06 min. [M+H]+ 567.

reactant | ethyl N-(4-{(1S)-1-[(4-chlorophenyl)(5-bromo-7-methyl-1-naphthyl)methyl]butyl}benzoyl)-β-alaninate | 0.064 mmol, 40 mg | ClC1=CC=C(C=C1)C([C@H](CCC)C1=CC=C(C(=O)NCCC(=O)OCC)C=C1)C1=CC=CC2=C(C=C(C=C12)C)Br | C34H35BrClNO3
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.071 mmol, 8.3 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(Ph3P)4 | 0.019 mmol, 22.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl N-(4-{(1S)-1-[(4-chlorophenyl)(5-cyano-7-methyl-1-naphthyl)methyl]butyl}benzoyl)-β-alaninate | ClC1=CC=C(C=C1)C([C@H](CCC)C1=CC=C(C(=O)NCCC(=O)OCC)C=C1)C1=CC=CC2=C(C=C(C=C12)C)C#N | C35H35ClN2O3
